US04298529
A mixture of ethyl 2-hydroxyimino-3-oxobutyrate (syn isomer, 10 g), ethylene glycol (19.75 g) and p-toluenesulfonic acid (0.3 g) and dried benzene (150 ml) was heated for 2 hours under reflux while removing water azeotropically. The reaction mixture was washed with water (50 ml), a saturated aqueous solution of sodium bicarbonate (50 ml), water (50 ml) and a saturated aqueous solution of sodium chloride (50 ml) in turn, dried over magnesium sulfate and then filtered. The filtrate was evaporated to give an oil of ethyl 2-hydroxyimino-3,3-ethylenedioxybutyrate (syn isomer, 7.12 g). (Yield: 55.1%).

reactant | ethyl 2-hydroxyimino-3-oxobutyrate | 10 g | ON=C(C(=O)OCC)C(C)=O | C6H9NO4
reactant | ethylene glycol | 19.75 g | C(CO)O | C2H6O2
catalyst | p-toluenesulfonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | ethyl 2-hydroxyimino-3,3-ethylenedioxybutyrate | 7.12 g, Yield: 55.1% | ON=C(C(=O)OCC)C1(C)OCCO1 | C8H13NO5
